US07476399B2
N-(4-chloro-2-methylphenyl)isoindoline-2-carboxamide
To a solution of isoindoline (238 mg, 2.0 mmol) in dry 1,4-dioxane (10 mL) was added 4-chloro-2-methylphenyl isocyanate (335 mg, 2.0 mmol) under argon at room temperature. The reaction mixture was then stirred at RT overnight. The solvent was evaporated under reduced pressure, and the residue was purified by recrystallization from ethanol to give the title compound (540 mg, 94%) as a white solid. 1H NMR (500 MHz, DMSO-d6): δ 2.24 (s, 2H), 4.76 (s, 4H), 7.20 (dd, J=2.5, 8.5 Hz, 1H), 7.27 (d, J=2.5 Hz, 1H), 7.30-7.32 (m, 2H), 7.34-7.37 (m, 2H), 7.42 (d, J=8.5 Hz, 1H), 7.84 (s, 1H); 13C NMR (DMSO-d6): δ 17.7, 51.9, 122.8, 125.6, 126.8, 127.3, 128.1, 129.5, 134.7, 136.8, 154.2; MS(MH+, 287); EA calc'd for C16H15ClN2O: C, 67.02; H, 5.27; N, 9.77; Found C, 66.82; H, 5.41; N, 9.92.

reactant | isoindoline | 2.0 mmol, 238 mg | C1NCC2=CC=CC=C12 | C8H9N
reactant | 4-chloro-2-methylphenyl isocyanate | 2.0 mmol, 335 mg | ClC1=CC(=C(C=C1)N=C=O)C | C8H6ClNO
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-(4-chloro-2-methylphenyl)isoindoline-2-carboxamide | 540 mg, 94% | ClC1=CC(=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1)C | C16H15ClN2O
